Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Carotid stenosis
 
Major Surgical or Invasive Procedure:
___: Left carotid endartarectomy

 
History of Present Illness:
Ms. ___ is a ___ year old female who was admitted in ___ after  an episode of transient episode of left-sided 
weakness presumed to be a TIA and was found to have bilateral 
carotid stenosis. During that admission, she underwent elective 
Right Carotid Endarterectomy. She did well postoperatively and 
was shown on imaging to have a 70% occluded left carotid.  She 
presents today for elective left carotid endartarectomy.
 
Past Medical History:
HYPERTENSION 
HYPERCHOLESTEROLEMIA 
GASTROESOPHAGEAL REFLUX 
CHRONIC KIDNEY DISEASE 
DIABETES MELLITUS, TYPE II, UNCOMPLICATED 
LACTOSE INTOLERANCE 
B12 DEFICIENCY 
GOUT 
H/O BELL'S PALSY ___ 
 
Social History:
___
Family History:
Her mother passed at ___ and her full sister passed at ___ from
hemophilia (she does not know which one). Her father passed at 
___
from heart failure and asthma. She has 8 half siblings on her
father's side with an extensive cancer history. Three of them
have bowel cancer, one ___ sister with breast ca, one ___ sis
with uterine cancer, one ___ sister with ovarian cancer. The
family has never been worked up for this or told that they have
any familiar cancers. But the ___ siblings have the same father
but not the same mother so if it is genetic it is passed via the
father (whom the patient shares). She has three children, the
eldest is ___ with Downs. The other two are ___ and ___ and are
healthy. 
 
Physical Exam:
================
ON DISCHARGE
================
___ x 3.  NAD.  PERLLA.  CNII-XII intact.
Speech clear
LS CTA
RRR
abdomen soft, NTND
___ BUE and BLE no drift/dysmetria
 
Pertinent Results:
================
IMAGING
================
___ CTA Head & Neck
1. Expected postoperative changes of the left neck status post 
left carotid endarterectomy, including subcutaneous emphysema 
surrounding the surgical site.  No evidence of hematoma or 
intraluminal air.  Some contour irregularity could be due to 
postoperative changes. 
2. Small unchanged left middle cerebral artery aneurysm as 
described.  No 
evidence of acute intracranial abnormalities. 

___ CXR
There are low lung volumes.  Bibasilar opacities could be 
atelectasis or 
pneumonia in the appropriate clinical setting.  There is no 
evident pulmonary edema, pneumothorax or large pleural 
effusions.  Cardiac size is top-normal. 

 
Brief Hospital Course:
On ___, Ms. ___ presented for an elective left CEA.  Her 
operative course was uncomplicated; see operative note for full 
details.  She was extubated and transferred to the PACU. On 
transfer to PACU, she was noted by nursing to be alert and 
oriented x 3 and moving all extremities. While in PACU, she was 
hypertensive with systolic blood pressures in the 180-190's.  
She was treated with IV labetalol and hydralazine and blood 
pressure decreased to the 100's systolic.  At that time, she was 
noted by nursing to be aphasic and not following commands with a 
right-sided neglect.  STAT CTA Head & Neck were obtained which 
did not show any carotid occlusion or thrombus.  She was 
transferred back to the PACU and SBP increased to 130's; her 
neuro exam returned to baseline. On ___, the patient remained 
neurologically stable on examination. It was determined she 
would be transferred to the floor.  On ___ she remained 
stable.  Her BP parameters were relaxed to less than 180 
systolic.  She was evaluated by ___ and cleared for home without 
services.  She was discharged home and will follow up with Dr. 
___ in ___ weeks.

 
Medications on Admission:
ALLOPURINOL - allopurinol ___ mg tablet. 1 tablet(s) by mouth
once daily
ATORVASTATIN - atorvastatin 80 mg tablet. 1 tablet(s) by mouth
once a day -  (Prescribed by Other Provider)
COLCHICINE - colchicine 0.6 mg capsule. 1 capsule(s) by mouth
once a day Take 2 capsules on day one and then one capsule daily
-  (Not Taking as Prescribed: DISCONTINUED)Entered by MA/Other
Staff
GLIMEPIRIDE - glimepiride 4 mg tablet. 1 Tablet(s) by mouth 
twice
a day
HYDROCHLOROTHIAZIDE - hydrochlorothiazide 25 mg tablet. 1
Tablet(s) by mouth once a day
LISINOPRIL - lisinopril 20 mg tablet. 1 tablet(s) by mouth once 
a
day
METFORMIN - metformin 1,000 mg tablet. 1 tablet(s) by mouth 
twice
a day
SITAGLIPTIN [JANUVIA] - Januvia 50 mg tablet. 1 tablet(s) by
mouth once daily
 
Medications - OTC
ACETAMINOPHEN - acetaminophen 325 mg tablet. ___ tablet(s) by
mouth every 6 hours as needed for pain -  ___ DC med rec)
ASPIRIN - aspirin 325 mg tablet,delayed release. 1 tablet(s) by
mouth daily -  ___ DC med rec)
BLOOD SUGAR DIAGNOSTIC [ONE TOUCH TEST] - One Touch Test strips. 

-  (chart conversion)
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 600 + D(3)] - Calcium 600 
+
D(3) 600 mg (1,500 mg)-400 unit tablet. 1 tablet(s) by mouth
daily -  ___ admission med rec)
CIMETIDINE [TAGAMET HB] - Dosage uncertain -  (Prescribed by
Other Provider)
CYANOCOBALAMIN (VITAMIN B-12) - cyanocobalamin (vit B-12) 1,000
mcg tablet. 1 tablet(s) by mouth daily -  (___)
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Docusate Sodium 100 mg PO BID  
3.  Senna 17.2 mg PO QHS  
4.  SITagliptin 50 mg oral DAILY  
5.  Allopurinol ___ mg PO DAILY  
6.  Aspirin 325 mg PO DAILY  
7.  Atorvastatin 80 mg PO QPM  
8.  Calcium 600 + Minerals (calcium carbonate-vit D3-min) 600 mg 
calcium- 400 unit oral DAILY  
9.  Cimetidine 300 mg PO DAILY:PRN heart burn  
10.  glimepiride 4 mg oral BID  
11.  Hydrochlorothiazide 25 mg PO DAILY  
12.  Januvia (SITagliptin) 50 mg oral DAILY  
13.  Lisinopril 20 mg PO DAILY  
14.  MetFORMIN (Glucophage) 1000 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Carotid Stenosis
TIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ BRAIN ANEURYSM INSTITUTE
Carotid Endarterectomy
Discharge Instructions
Call your neurosurgeon_x0092_s office for:
_x0095_ Worsening headache
_x0095_ Any new problems with your vision, speaking, or strength in 
arms or legs
_x0095_ If you have a hard time swallowing
_x0095_ Swelling, drainage, or redness of your incision
_x0095_ Fever greater than 100.5 F degrees
_x0095_ Stiff or painful neck
_x0095_ Nausea, vomiting, lethargy (unable to stay awake)
_x0095_ Any problems with side effects from medications, you can also 
call your pharmacy.
_x0095_ A follow-up appointment for ___ weeks after discharge
Activity:
_x0095_ No sexual activity for one month.
_x0095_ Do not operate any motorized vehicle for one month
_x0095_ No heavy lifting or bending for one month, then slowly 
increase your activity at your own pace
_x0095_ Do not operate any motorized vehicle nor drink alcohol while 
on pain medications

Incision Care:
_x0095_You have absorbable sutures that will not need suture removal
_x0095_Typically your dressing is removed day 1 post operatively 
_x0095_Leave the white strips in place; if your strips have not 
fallen off after 14 days, you may carefully take them off.
_x0095_When you are allowed to shampoo your hair, (typically ___ days 
post operatively), let the shampoo run off the incision line and 
do not rub, scrub, scratch, or pick at any scabs on the incision 
line.
_x0095_Do not use creams or ointment on your incision; keep it clean 
and open to air unless otherwise instructed

Common Problems:
_x0095_ Pain medicine and inactivity can cause constipation (straining 
when passing stool).
Prevent constipation by:
o Drinking plenty of fluids
o Eating vegetables, prunes, high fiber breads & cereals
o Getting enough exercise.
o Take stool softeners like Docusate sodium (Colace) per package 
directions, usually three times a day
o Take bowel stimulants like Senna or Bisacodyl (Dulcolax) per 
package directions, usually twice a day:
_x0095_ If you have loose stools: slowly reduce the bowel stimulants.
_x0095_ For constipation: take Milk of Magnesia, Magnesium Citrate or 
Miralax  per package directions.
_x0095_ When you start to move around and need less pain medications, 
slowly stop taking the stool stimulants, and then decrease the 
stool softeners.

Fatigue/Pain/ Swelling:
_x0095_ Fatigue: will slowly resolve, over days to weeks
_x0095_ Pain over incision or loss of sensation: resolves in ___ 
months
_x0095_ Facial/ carotid swelling: slowly resolves over the next few 
weeks  

 
Followup Instructions:
___